US07384952B2
To a solution of p-nitrophenyl chloroformate (18.1 g) in methylene chloride (300 mL) is added dropwise 3-(dimethylamino)propanol (14.2 mL) and the mixture is stirred at room temperature for 4 hours. To the mixture is added successively methyl 4-[[[2-(dimethylamino)ethyl]amino]methyl]benzoate (13.7 g) and triethylamine (25 mL) and the mixture is stirred at room temperature for one day. The reaction mixture is washed with a saturated potassium carbonate solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The resultant crude product is purified by flash column chromatography on NH-silica gel (Chromatorex NH silica gel, Solvent; ethyl acetate:n-hexane=1:1) to give methyl 4-[[N-[2-(dimethylamino)ethyl]-N-[[3-(dimethylamino)propoxy]carbonyl]amino]methyl]benzoate (7.97 g, yield; 38%) as a colorless oil. MS (APCI) m/z: 366 [M+H]+

reactant | p-nitrophenyl chloroformate | 18.1 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 3-(dimethylamino)propanol | 14.2 mL | CN(CCCO)C | C5H13NO
reactant | methyl 4-[[[2-(dimethylamino)ethyl]amino]methyl]benzoate | 13.7 g | CN(CCNCC1=CC=C(C(=O)OC)C=C1)C | C13H20N2O2
reactant | triethylamine | 25 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-[[N-[2-(dimethylamino)ethyl]-N-[[3-(dimethylamino)propoxy]carbonyl]amino]methyl]benzoate | 7.97 g, yield; 38% | CN(CCN(C(=O)OCCCN(C)C)CC1=CC=C(C(=O)OC)C=C1)C | C19H31N3O4
